US06897322B2
970 g of methyl 3-(2,4-dichlorophenyl)-3-oxopropionate were initially charged in 4000 ml of ethanol. Over a period of 15 min, 201 g of hydrazine hydrate were added dropwise, the mixture was stirred at room temperature overnight, the precipitated solid was filtered off and the filtrate was concentrated to ⅓ of its original volume. The filtrate was stirred for another two nights, the resulting solid was filtered off with suction and the filtrate was again concentrated to ⅓ of its original volume. This gave a total of 714.2 g (79.4%) of 3-(2,4-dichlorophenyl)-5-hydroxy-1H-pyrazole as a colorless solid. M.p.: 198° C.

reactant | methyl 3-(2,4-dichlorophenyl)-3-oxopropionate | 970 g | ClC1=C(C=CC(=C1)Cl)C(CC(=O)OC)=O | C10H8Cl2O3
reactant | hydrazine hydrate | 201 g | O.NN
solvent | ethanol | 4000 ml | C(C)O | C2H6O
product | 3-(2,4-dichlorophenyl)-5-hydroxy-1H-pyrazole | 714.2 g, 79.4% | ClC1=C(C=CC(=C1)Cl)C1=NNC(=C1)O | C9H6Cl2N2O
